US07910740B2
[4-(2,5-Dimethoxy-phenyl)-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
The title compound was prepared in analogy to example 1 step e) from 88 mg (0.33 mmol) 2-bromo-2′,5′-dimethoxyacetophenon and 79 mg (0.3 mmol) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea. The crude reaction was diluted with diethyl ether and stirred for 15 minutes at room temperature. The product was filtered off and dried to yield 124 mg (98%) [4-(2,5-dimethoxy-phenyl)-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine as a light green solid. MS ISP (m/e): 423.2 (100) (M+H)+. 1H NMR (DMSO-D6, 250 MHz): δ (ppm)=10.68 (s, 1H), 9.28 (s, 1H), 7.99 (s, 1H), 7.72 (s, 1H), 7.69 (d, 1H), 7.54 (s, 1H), 7.52 (d, 1H), 7.28 (d, 1H), 7.07 (d, 1H), 6.89 (dd, 1H), 3.92 (s, 3H), 3.88 (s, 3H), 3.75 (s, 3H), 2.34 (s, 3H).

reactant | 2-bromo-2′,5′-dimethoxyacetophenon | 0.33 mmol, 88 mg | BrCC(=O)C1=C(C=CC(=C1)OC)OC | C10H11BrO3
reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.3 mmol, 79 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
solvent | diethyl ether | C(C)OCC | C4H10O
product | [4-(2,5-dimethoxy-phenyl)-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | 124 mg, 98% | COC1=C(C=C(C=C1)OC)C=1N=C(SC1)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C22H22N4O3S
